2110-10-11 07:33:00 Physician Resident Progress Note
Chief Complaint:
   Hepatic encephalopathy [**3-15**] inadequate lactulose due to partial SBO
   24 Hour Events:
 intubated upon arrival for inability to protect airway
 Placed left subclavian central line
   - Abd u/s- closed TIPs
   - Urine lytes consistent with pre-renal
   - abd CT- partial SBO
   - Head CT- unchanged from priors
   - Active fluid resuscitation.  Used LR given hypernatremia and
   hyperchloremia.  CVP continues to run low.  Goal >8
   - Lactulose enemas TID- not fully effective yet
   - Added IV propranolol for varices
   - Per liver- flagyl empirically for bacterial translocation; ? capsule
   endoscopy
   - [**Doctor First Name **]- NTD, continue to monitor. Close TIPs is beneficial at this
   time.
   Allergies:
   Cipro (Oral) (Ciprofloxacin Hcl)
   Hives;
   Doxycycline
   Hives; hallucin
   Paxil (Oral) (Paroxetine Hcl)
   hair loss;
   Quinine
   Rash;
   Compazine (Injection) (Prochlorperazine Edisylate)
   muscle spasm;
   Levaquin (Oral) (Levofloxacin)
   tendinitis of t
   Lithium
   Hives;
   Last dose of Antibiotics:
   Infusions:
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2110-10-10**] 10:03 AM
   Metoprolol - [**2110-10-10**] 11:14 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2110-10-11**] 07:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.9
C (98.4
   HR: 97 (92 - 129) bpm
   BP: 121/67(81) {93/56(70) - 180/98(119)} mmHg
   RR: 16 (14 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
    CVP: 6 (3 - 10)mmHg
   Total In:
                                                                  4,543 mL
                                                                    977 mL
   PO:
   TF:
   IVF:
                                                                  4,543 mL
                                                                    977 mL
   Blood products:
   Total out:
                                                                  2,028 mL
                                                                  1,110 mL
   Urine:
                                                                    403 mL
                                                                    210 mL
   NG:
                                                                  1,625 mL
                                                                    900 mL
   Stool:
   Drains:
   Balance:
                                                                  2,515 mL
                                                                   -133 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 550 (546 - 788) mL
   PS : 5 cmH2O
   RR (Set): 0
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 33
   PIP: 19 cmH2O
   Plateau: 17 cmH2O
   SpO2: 100%
   ABG: 7.53/27/166/22/1
   Ve: 11.4 L/min
   PaO2 / FiO2: 415
   Physical Examination
   Gen: sedated, intubated, NGT in place
   CV: systolic murmur
   Abd: soft
   Ext: no edema
   Labs / Radiology
   69 K/uL
   10.5 g/dL
   154 mg/dL
   2.1 mg/dL
   22 mEq/L
   3.6 mEq/L
   44 mg/dL
   113 mEq/L
   144 mEq/L
   29.8 %
   6.0 K/uL
        [image002.jpg]
                             [**2110-10-9**]  11:39 PM
                             [**2110-10-10**]  06:31 AM
                             [**2110-10-10**]  10:04 AM
                             [**2110-10-10**]  02:34 PM
                             [**2110-10-10**]  05:07 PM
                             [**2110-10-10**]  05:36 PM
                             [**2110-10-10**]  06:22 PM
                             [**2110-10-10**]  07:05 PM
                             [**2110-10-11**]  03:10 AM
   WBC
   10.8
   6.0
   Hct
   37.6
   29.8
   Plt
   119
   69
   Cr
   2.8
   2.7
   2.5
   2.1
   TCO2
   26
   26
   21
   15
   23
   Glucose
   148
   144
   127
   154
   Other labs: PT / PTT / INR:12.7/31.5/1.1, ALT / AST:19/23, Alk Phos / T
   Bili:128/0.8, Amylase / Lipase:80/46, Lactic Acid:1.9 mmol/L,
   Albumin:3.4 g/dL, LDH:237 IU/L, Ca++:7.4 mg/dL, Mg++:2.1 mg/dL, PO4:3.9
   mg/dL
   Assessment and Plan
   55-F w/ hepatic sarcoidosis / regenerative hyperplasia, s/p TIPS
   [**12/2109**] placed [**3-15**] variceal bleeding / portal hypertensive gastropathy,
   s/p TIPS re-do with angioplasty / portal vein embolectomy, who is
   admitted to the MICU for encephalopathy.
   .
   #. Encephalopathy - Pt brought in to ED by husband for asterixis and
   concern for impending encephalopathy, and pt became increasingly
   combative and then unresponsive in ED, c/w past episodes of hepatic
   encephalopathy. Ammonia level 280 on admission. Also in acute renal
   failure w/ elevated BUN and Cr from baseline. Most likely hepatic
   encephalopathy, although uremia from ARF may also be contributing.
   Received lactulose and kayexelate in ED. Guaiac negative in ED, w/ UA /
   CXR pending.
   - NGT to suction
   - monitor for signs of GI bleeding as potential source of hepatic
   encephalopathy
   - f/u blood and urine Cx data
   - will continue lactulose pr as pt cannot take po, titrate to 3 BMs /
   day
   - IVF / albumin as below for ARF
   - holding all sedating meds (gabapentin, amitryptyline, zolpidem)
   - Per liver, giving flagyl empirically for bacterial translocation.  Pt
   is allergic to cipro
   - Need to follow up with liver regarding their recs, specifically
   capsule endocscopy in setting of SBO
   .
   #. Acute renal failure - Pt w/ ARF as evidenced by elevated BUN and Cr
   to 46 and 2.2 on admission, up from baseline BUN [**6-21**] and baseline Cr
   0.8-1.0.
   - IVF for pre-renal azotemia.  Using LR given hyperchloremia.  However,
   most important is just to give fluid.
   - consider albumin for ARF given concern for hepato-renal syndrome.
   Will continue with crystalloid at this time
   - holding diuretics (Lasix, spironolactone)
   - holding diltiazem for now as unclear if pt takes this at home
   .
   #. Hyperkalemia - Pt w/ elevated K to 5.5 on admission, received
   Kayexelate in ED but likely not absorbed as pt had emesis on arrival to
   ICU. ECG without hyperkalemic changes.
   - K+ wnl
   - cont to follow
   .
   #. Hepatic sarcoidosis w/ regenerative hyperplasia - Pt is s/p TIPS x2.
   Currently on Ursodiol at home. LFTs WNL on arrival, Ammonia elevated as
   above.
   - cont home dose of Ursodiol, Prednisone
   - cont home vitamins (MVI / thiamine / folate, iron)
   - cont lactulose as above, titrate to 3 BMs/day
   - cont home PPI.  No sucralfate given SBO
   .
   #. Hypothyroidism - cont home dose of levothyroxine
   #. Thrombocytopenia- currently at 60k, down from 119k at admission.
   Concerning for pre-formed HIT abs.  Will check.  If positive, most
   likely due to heparin coated central line and would req replacement
   with heparin free line.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2110-10-10**] 08:30 AM
   Multi Lumen - [**2110-10-10**] 04:40 PM
   Prophylaxis:
   DVT:  pneumo boots
   Stress ulcer:  PPI
   VAP:  daily wake up, mouth rinse, HOB elev
   Comments:
   Communication:  Comments: Husband
   [**Name (NI) 66**] status: Full code
   Disposition: MICU

2110-10-12 06:11:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2110-10-12**] 04:33 AM
 SPUTUM CULTURE - At [**2110-10-12**] 05:09 AM
 URINE CULTURE - At [**2110-10-12**] 05:09 AM
 FEVER - 101.7
F - [**2110-10-12**] 04:00 AM
   PM lytes with low K. Added KCl sliding scale.
   Liver recommended continuing flagyl and lactulose and will not reassess
   tips until medically stable and SBO resolved.
   UCX grew lactobacillus and group B strep. Started on 1million units PCN
   G Q6H.
   TPN was not started because nurse thought  could not give TPN in port
   that had already been accessed because inc risk of infection but this
   is actually untrue so should get TPN today.
   Given no TPN + ARF, started D51/2NS 50mL/hr until TPN on board to
   maintain volume status
   Developed acute hypoxia with sats in high 80s, breathing at rate of
   35/min on CPAP, and slightly tachycardiac HR 100s. CXR slightly inc
   opacity of LLL and flattened R hemi-diaphragm. No PTX. ABG with
   alkalosis and low PCO2. Was switched to AC and propofol increased and
   patient seemed more comfortable.
   Allergies:
   Cipro (Oral) (Ciprofloxacin Hcl)
   Hives;
   Doxycycline
   Hives; hallucin
   Paxil (Oral) (Paroxetine Hcl)
   hair loss;
   Quinine
   Rash;
   Compazine (Injection) (Prochlorperazine Edisylate)
   muscle spasm;
   Levaquin (Oral) (Levofloxacin)
   tendinitis of t
   Lithium
   Hives;
   Last dose of Antibiotics:
   Metronidazole - [**2110-10-11**] 02:00 PM
   Infusions:
   Propofol - 50 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2110-10-11**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2110-10-12**] 06:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.7
   Tcurrent: 38.7
C (101.7
   HR: 117 (88 - 117) bpm
   BP: 148/65(81) {109/60(72) - 162/88(108)} mmHg
   RR: 27 (16 - 27) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 61 Inch
    CVP: 5 (2 - 11)mmHg
   Total In:
                                                                  4,017 mL
                                                                    160 mL
   PO:
   TF:
   IVF:
                                                                  4,017 mL
                                                                    160 mL
   Blood products:
   Total out:
                                                                  3,195 mL
                                                                    280 mL
   Urine:
                                                                  1,545 mL
                                                                    280 mL
   NG:
                                                                  1,650 mL
   Stool:
   Drains:
   Balance:
                                                                    822 mL
                                                                   -120 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 387 (387 - 583) mL
   PS : 5 cmH2O
   RR (Set): 15
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 60
   PIP: 15 cmH2O
   SpO2: 96%
   ABG: 7.52/27/109/23/1
   Ve: 12 L/min
   PaO2 / FiO2: 218
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   68 K/uL
   10.3 g/dL
   105 mg/dL
   1.6 mg/dL
   23 mEq/L
   3.4 mEq/L
   35 mg/dL
   113 mEq/L
   146 mEq/L
   29.4 %
   6.8 K/uL
        [image002.jpg]
                             [**2110-10-10**]  02:34 PM
                             [**2110-10-10**]  05:07 PM
                             [**2110-10-10**]  05:36 PM
                             [**2110-10-10**]  06:22 PM
                             [**2110-10-10**]  07:05 PM
                             [**2110-10-11**]  03:10 AM
                             [**2110-10-11**]  08:59 AM
                             [**2110-10-11**]  05:33 PM
                             [**2110-10-12**]  12:58 AM
                             [**2110-10-12**]  02:01 AM
   WBC
   6.0
   5.7
   6.8
   Hct
   29.8
   29.7
   29.4
   Plt
   69
   60
   69
   68
   Cr
   2.7
   2.5
   2.1
   1.6
   1.6
   TCO2
   21
   15
   23
   23
   Glucose
   144
   127
   154
   114
   105
   Other labs: PT / PTT / INR:12.4/28.7/1.0, ALT / AST:19/24, Alk Phos / T
   Bili:129/1.1, Amylase / Lipase:80/46, Lactic Acid:1.2 mmol/L,
   Albumin:3.5 g/dL, LDH:235 IU/L, Ca++:8.0 mg/dL, Mg++:2.0 mg/dL, PO4:4.5
   mg/dL
   Assessment and Plan
   55-F w/ hepatic sarcoidosis / regenerative hyperplasia, s/p TIPS
   [**12/2109**] placed [**3-15**] variceal bleeding / portal hypertensive gastropathy,
   s/p TIPS re-do with angioplasty / portal vein embolectomy, who is
   admitted to the MICU for encephalopathy.
   .
   #. Encephalopathy - Pt brought in to ED by husband for asterixis and
   concern for impending encephalopathy, and pt became increasingly
   combative and then unresponsive in ED, c/w past episodes of hepatic
   encephalopathy. Ammonia level 280 on admission. Also in acute renal
   failure w/ elevated BUN and Cr from baseline. Most likely hepatic
   encephalopathy, although uremia from ARF may also be contributing.
   Received lactulose and kayexelate in ED. Guaiac negative in ED, w/ UA /
   CXR pending.
   - NGT to suction still draining a fair amount (>1500mL yesterday)
   - monitor for signs of GI bleeding as potential source of hepatic
   encephalopathy
   - f/u blood and urine Cx data
   - will continue lactulose pr as pt cannot take po, titrate to 3 BMs /
   day
   - IVF / albumin as below for ARF
   - holding all sedating meds (gabapentin, amitryptyline, zolpidem)
   - Per liver, giving flagyl empirically for bacterial translocation.  Pt
   is allergic to cipro
   - Need to follow up with liver regarding their recs, specifically
   capsule endocscopy in setting of SBO
   - Will do serial abdominal exams to ensure no rigidity of abdomen.
   .
   #. Fever: Has been pan-cultured. Concern for infection as cause for
   encephalopathy and also concern for SBP.  Has LLL infiltarate on CXR
   -Empiric vanc/zosyn for 7days for PNA in recently hospitalized patient
   on vent.
   -[**Month (only) 60**] need diagnostic tap today to r/o sbp
   -[**Month (only) 60**] need to broaden antibiotic coverage as only on pcn for +Ucx and
   flagyl for SBP ppx.
   .
   #. Acute renal failure - Pt w/ ARF as evidenced by elevated BUN and Cr
   to 46 and 2.2 on admission, up from baseline BUN [**6-21**] and baseline Cr
   0.8-1.0.
   - IVF for pre-renal azotemia.  Using LR given hyperchloremia.  UOP has
   been >30mL/hour.
   - consider albumin for ARF given concern for hepato-renal syndrome.
   Will continue with crystalloid at this time
   - holding diuretics (Lasix, spironolactone)
   - holding diltiazem for now as unclear if pt takes this at home
   .
   #. Hyperkalemia - Pt w/ elevated K to 5.5 on admission, received
   Kayexelate in ED but likely not absorbed as pt had emesis on arrival to
   ICU. ECG without hyperkalemic changes.
   - K+ wnl
   - cont to follow
   .
   #. Hepatic sarcoidosis w/ regenerative hyperplasia - Pt is s/p TIPS x2.
   Currently on Ursodiol at home. LFTs WNL on arrival, Ammonia elevated as
   above.
   - cont home dose of Ursodiol, Prednisone
   - cont home vitamins (MVI / thiamine / folate, iron)
   - cont lactulose as above, titrate to 3 BMs/day
   - cont home PPI.  No sucralfate given SBO
   .
   #. Hypothyroidism - cont home dose of levothyroxine
   #. Thrombocytopenia- currently at 60k, down from 119k at admission.
   Concerning for pre-formed HIT abs.  Will check.  If positive, most
   likely due to heparin coated central line and would req replacement
   with heparin free line.
   -Hit abs pending
   .
   #. Hypocalcemia: On sliding scale.
   ICU Care
   Nutrition: To get TPN today.
   Glycemic Control:
   Lines:
   20 Gauge - [**2110-10-10**] 08:30 AM
   Multi Lumen - [**2110-10-10**] 04:40 PM
   Prophylaxis:
   DVT:  pneumo boots
   Stress ulcer:  PPI
   VAP:  daily wake up, mouth rinse, HOB elev
   Comments:
   Communication:  Comments: Husband
   [**Name (NI) 66**] status: Full code
   Disposition: MICU

2110-10-12 09:45:00 Physician Attending Progress Note
Chief Complaint: hepatic encephalopathy, respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 FEVER - 101.7
F - [**2110-10-12**] 04:00 AM
 BLOOD CULTURED - At [**2110-10-12**] 04:33 AM
 SPUTUM CULTURE - At [**2110-10-12**] 05:09 AM
 URINE CULTURE - At [**2110-10-12**] 05:09 AM
   Also episode of hypoxemia overnight
   D5 1/2 NS started for maintenance
   Renal failure continues to improve
   History obtained from Medical records, ICU team
   Patient unable to provide history: Encephalopathy
   Allergies:
   Cipro (Oral) (Ciprofloxacin Hcl)
   Hives;
   Doxycycline
   Hives; hallucin
   Paxil (Oral) (Paroxetine Hcl)
   hair loss;
   Quinine
   Rash;
   Compazine (Injection) (Prochlorperazine Edisylate)
   muscle spasm;
   Levaquin (Oral) (Levofloxacin)
   tendinitis of t
   Lithium
   Hives;
   Last dose of Antibiotics:
   Metronidazole - [**2110-10-12**] 06:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2110-10-12**] 08:00 AM
   Other medications:
   PPI, folate, thiamine, MVI, levothyroxine, hydrocort 10 q 24, propofol,
   propranolol, CHG, Flagyl, lactulose enema, PCN G, vancomycin
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2110-10-12**] 09:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.7
   Tcurrent: 37.7
C (99.8
   HR: 102 (88 - 117) bpm
   BP: 121/77(88) {101/55(67) - 162/77(99)} mmHg
   RR: 27 (16 - 27) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 61 Inch
   CVP: 5 (2 - 11)mmHg
   Total In:
                                                                  4,017 mL
                                                                    491 mL
   PO:
   TF:
   IVF:
                                                                  4,017 mL
                                                                    491 mL
   Blood products:
   Total out:
                                                                  3,195 mL
                                                                    745 mL
   Urine:
                                                                  1,545 mL
                                                                    345 mL
   NG:
                                                                  1,650 mL
                                                                    400 mL
   Stool:
   Drains:
   Balance:
                                                                    822 mL
                                                                   -254 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 387 (387 - 565) mL
   RR (Set): 18
   RR (Spontaneous): 6
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 60
   PIP: 14 cmH2O
   SpO2: 96%
   ABG: 7.52/27/109/23/1
   Ve: 12.2 L/min
   PaO2 / FiO2: 218
   Physical Examination
   General Appearance: frail
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : , Wheezes : scant,
   anterior)
   Abdominal: Soft, Distended
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Purposeful, Tone: Normal
   Labs / Radiology
   10.3 g/dL
   68 K/uL
   105 mg/dL
   1.6 mg/dL
   23 mEq/L
   3.4 mEq/L
   35 mg/dL
   113 mEq/L
   146 mEq/L
   29.4 %
   6.8 K/uL
        [image002.jpg]
                             [**2110-10-10**]  02:34 PM
                             [**2110-10-10**]  05:07 PM
                             [**2110-10-10**]  05:36 PM
                             [**2110-10-10**]  06:22 PM
                             [**2110-10-10**]  07:05 PM
                             [**2110-10-11**]  03:10 AM
                             [**2110-10-11**]  08:59 AM
                             [**2110-10-11**]  05:33 PM
                             [**2110-10-12**]  12:58 AM
                             [**2110-10-12**]  02:01 AM
   WBC
   6.0
   5.7
   6.8
   Hct
   29.8
   29.7
   29.4
   Plt
   69
   60
   69
   68
   Cr
   2.7
   2.5
   2.1
   1.6
   1.6
   TCO2
   21
   15
   23
   23
   Glucose
   144
   127
   154
   114
   105
   Other labs: PT / PTT / INR:12.4/28.7/1.0, ALT / AST:19/24, Alk Phos / T
   Bili:129/1.1, Amylase / Lipase:80/46, Lactic Acid:1.2 mmol/L,
   Albumin:3.5 g/dL, LDH:235 IU/L, Ca++:8.0 mg/dL, Mg++:2.0 mg/dL, PO4:4.5
   mg/dL
   Microbiology: UCx: lactobacillus, GBS
   Assessment and Plan
   55 y/o woman with
                   Hepatic encephalopathy (improved but still with
   asterixis)
                   Small bowel obstruction (still with substantial, though
   improving
                   Probable VAP
                   Acute renal failure
                   long QT on telemetry
                   malnutrition
                   sarcoidosis
                   thrombocytopenia
   Although mental status has improved, she still has an SBO and had
   hypoxemia overnight and has a new probable VAP.  Today, we will start
   presumptive treatment for VAP with vancomycin and Zosyn.  We will not
   use a second GNR [**Doctor Last Name **] at this point because she is allergic to
   quinolones and because the risk of complications from aminoglycosides
   in the setting of acute renal failure outweighs the benefits.
   If her respiratory status stays stable and SBO improves, would move
   toward extubation soon
   TPN today
   Check EKG and compare with prior regarding QT.
   Other issues as per ICU team note
   ICU Care
   Nutrition:
   Comments: start TPN
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2110-10-10**] 08:30 AM
   Multi Lumen - [**2110-10-10**] 04:40 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 min
   Patient is critically ill

2110-10-13 06:18:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Pt more alert and less encephalopathic, able to follow commands
   Started yesterday on empiric coverage for VAP with vanc + pip/tazo. FQs
   were held [**3-15**] history of allergy and AGs were held to avoid further
   renal failure
   No major change in Cr -  seems stable at 1.6
   Allergies:
   Cipro (Oral) (Ciprofloxacin Hcl)
   Hives;
   Doxycycline
   Hives; hallucin
   Paxil (Oral) (Paroxetine Hcl)
   hair loss;
   Quinine
   Rash;
   Compazine (Injection) (Prochlorperazine Edisylate)
   muscle spasm;
   Levaquin (Oral) (Levofloxacin)
   tendinitis of t
   Lithium
   Hives;
   Last dose of Antibiotics:
   Vancomycin - [**2110-10-12**] 08:00 AM
   Metronidazole - [**2110-10-13**] 12:00 AM
   Piperacillin - [**2110-10-13**] 12:03 AM
   Penicillin G potassium - [**2110-10-13**] 04:43 AM
   Infusions:
   Propofol - 25 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2110-10-12**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2110-10-13**] 06:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.8
C (100.1
   HR: 95 (85 - 111) bpm
   BP: 127/66(82) {104/51(66) - 147/77(94)} mmHg
   RR: 20 (16 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
    CVP: 8 (5 - 8)mmHg
   Total In:
                                                                  2,252 mL
                                                                    674 mL
   PO:
   TF:
   IVF:
                                                                  1,898 mL
                                                                    415 mL
   Blood products:
   Total out:
                                                                  1,985 mL
                                                                  1,280 mL
   Urine:
                                                                    935 mL
                                                                    430 mL
   NG:
                                                                  1,050 mL
                                                                    850 mL
   Stool:
   Drains:
   Balance:
                                                                    267 mL
                                                                   -606 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 414 (414 - 520) mL
   PS : 5 cmH2O
   RR (Set): 18
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 34
   PIP: 10 cmH2O
   SpO2: 100%
   ABG: ///23/
   Ve: 8.7 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   68 K/uL
   9.4 g/dL
   148 mg/dL
   1.6 mg/dL
   23 mEq/L
   4.0 mEq/L
   35 mg/dL
   113 mEq/L
   145 mEq/L
   27.0 %
   5.1 K/uL
        [image002.jpg]
                             [**2110-10-10**]  06:22 PM
                             [**2110-10-10**]  07:05 PM
                             [**2110-10-11**]  03:10 AM
                             [**2110-10-11**]  08:59 AM
                             [**2110-10-11**]  05:33 PM
                             [**2110-10-12**]  12:58 AM
                             [**2110-10-12**]  02:01 AM
                             [**2110-10-12**]  12:00 PM
                             [**2110-10-12**]  07:23 PM
                             [**2110-10-13**]  04:08 AM
   WBC
   6.0
   5.7
   6.8
   5.1
   Hct
   29.8
   29.7
   29.4
   26.6
   27.0
   Plt
   69
   60
   69
   68
   68
   Cr
   2.5
   2.1
   1.6
   1.6
   1.6
   TCO2
   23
   23
   Glucose
   127
   154
   114
   105
   141
   124
   148
   Other labs: PT / PTT / INR:12.8/32.0/1.1, ALT / AST:14/19, Alk Phos / T
   Bili:110/1.1, Amylase / Lipase:80/46, Lactic Acid:1.2 mmol/L,
   Albumin:3.2 g/dL, LDH:212 IU/L, Ca++:9.1 mg/dL, Mg++:2.3 mg/dL, PO4:4.0
   mg/dL
   Assessment and Plan
   55-F w/ hepatic sarcoidosis / regenerative hyperplasia, s/p TIPS
   [**12/2109**] placed [**3-15**] variceal bleeding / portal hypertensive gastropathy,
   s/p TIPS re-do with angioplasty / portal vein embolectomy, who is
   admitted to the MICU for encephalopathy.
   #. Encephalopathy - Pt brought in to ED by husband for asterixis and
   concern for impending encephalopathy, and pt became increasingly
   combative and then unresponsive in ED, c/w past episodes of hepatic
   encephalopathy. Ammonia level 280 on admission. Also in acute renal
   failure w/ elevated BUN and Cr from baseline. Most likely hepatic
   encephalopathy, although uremia from ARF may also be contributing.
   Received lactulose and kayexelate in ED. Guaiac negative in ED, w/ UA /
   CXR pending.
   - NGT to suction still draining a fair amount
   - monitor for signs of GI bleeding as potential source of hepatic
   encephalopathy
   - f/u blood and urine Cx data
   - will continue lactulose pr as pt cannot take po, titrate to 3 BMs /
   day
   - IVF / albumin as below for ARF
   - holding all sedating meds (gabapentin, amitryptyline, zolpidem)
   - Per liver, giving flagyl empirically for bacterial translocation.  Pt
   is allergic to cipro
   - Need to follow up with liver regarding their recs, specifically
   capsule endocscopy in setting of SBO
   - Will do serial abdominal exams to ensure no rigidity of abdomen.
   #. Fever: Has been pan-cultured. Concern for infection as cause for
   encephalopathy and also concern for SBP.  Has LLL infiltarate on CXR
   -Empiric vanc/zosyn for 7days for PNA in recently hospitalized patient
   on vent.
   -[**Month (only) 60**] need diagnostic tap to r/o sbp
   #. Acute renal failure - Pt w/ ARF as evidenced by elevated BUN and Cr
   to 46 and 2.2 on admission, up from baseline BUN [**6-21**] and baseline Cr
   0.8-1.0.
   - IVF for pre-renal azotemia.  Using LR given hyperchloremia.  UOP has
   been >30mL/hour.
   - consider albumin for ARF given concern for hepato-renal syndrome.
   Will continue with crystalloid at this time
   - holding diuretics (Lasix, spironolactone)
   - holding diltiazem for now as unclear if pt takes this at home
   #. Hyperkalemia - Pt w/ elevated K to 5.5 on admission, received
   Kayexelate in ED but likely not absorbed as pt had emesis on arrival to
   ICU. ECG without hyperkalemic changes.
   - K+ wnl
   - cont to follow
   #. Hepatic sarcoidosis w/ regenerative hyperplasia - Pt is s/p TIPS x2.
   Currently on Ursodiol at home. LFTs WNL on arrival, Ammonia elevated as
   above.
   - cont home dose of Ursodiol, Prednisone
   - cont home vitamins (MVI / thiamine / folate, iron)
   - cont lactulose as above, titrate to 3 BMs/day
   - cont home PPI.  No sucralfate given SBO
   #. Hypothyroidism - cont home dose of levothyroxine
   #. Thrombocytopenia- currently at 60k, down from 119k at admission.
   Concerning for pre-formed HIT abs.  Will check.  If positive, most
   likely due to heparin coated central line and would req replacement
   with heparin free line.
   -Hit abs pending
   #. Hypocalcemia: On sliding scale.
   ICU Care
   Nutrition: To get TPN today.
   Glycemic Control:
   Lines:
   20 Gauge - [**2110-10-10**] 08:30 AM
   Multi Lumen - [**2110-10-10**] 04:40 PM
   Prophylaxis:
   DVT:  pneumo boots
   Stress ulcer:  PPI
   VAP:  daily wake up, mouth rinse, HOB elev
   Comments:
   Communication:  Comments: Husband
   [**Name (NI) 66**] status: Full code
   Disposition: MICU
   ICU Care
   Nutrition:
   TPN without Lipids - [**2110-10-12**] 03:30 PM 41.[**Telephone/Fax (5) 4934**] mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2110-10-10**] 04:40 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2110-10-14 06:24:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Pt became alert and oriented yesterday and was successfully extubated
   yesterday am
   - Began to stool with lactulose (pt reports 3 stools), denies abd pain
   - Post extubation film showed NGT in place.
   - NGT continues to put out a significant volume
   - CVP continued to run low; received multiple crystalloid boluses.
   This am, gave 500ml (25g) albumin.
   - Continued TPN
   - PF4 Ab pending
   - headache o/n controlled with IV morphine (6 mg IV morphine)
   Allergies:
   Cipro (Oral) (Ciprofloxacin Hcl)
   Hives;
   Doxycycline
   Hives; hallucin
   Paxil (Oral) (Paroxetine Hcl)
   hair loss;
   Quinine
   Rash;
   Compazine (Injection) (Prochlorperazine Edisylate)
   muscle spasm;
   Levaquin (Oral) (Levofloxacin)
   tendinitis of t
   Lithium
   Hives;
   Last dose of Antibiotics:
   Vancomycin - [**2110-10-12**] 08:00 AM
   Penicillin G potassium - [**2110-10-13**] 04:43 AM
   Piperacillin - [**2110-10-13**] 05:38 PM
   Metronidazole - [**2110-10-13**] 10:01 PM
   Piperacillin/Tazobactam (Zosyn) - [**2110-10-14**] 05:58 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2110-10-13**] 08:34 AM
   Morphine Sulfate - [**2110-10-14**] 04:38 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2110-10-14**] 06:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.5
C (97.7
   HR: 93 (92 - 112) bpm
   BP: 120/53(71) {99/53(67) - 139/75(83)} mmHg
   RR: 19 (17 - 31) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 61 Inch
    CVP: 6 (1 - 9)mmHg
   Total In:
                                                                  5,585 mL
                                                                    806 mL
   PO:
   TF:
   IVF:
                                                                  4,284 mL
                                                                    463 mL
   Blood products:
   Total out:
                                                                  4,310 mL
                                                                    710 mL
   Urine:
                                                                  1,860 mL
                                                                    460 mL
   NG:
                                                                  2,300 mL
                                                                    250 mL
   Stool:
                                                                    150 mL
   Drains:
   Balance:
                                                                  1,275 mL
                                                                     96 mL
   Respiratory support
   O2 Delivery Device: None
   Ventilator mode: Standby
   Vt (Spontaneous): 613 (613 - 613) mL
   PS : 5 cmH2O
   RR (Spontaneous): 27
   PEEP: 0 cmH2O
   FiO2: 50%
   SpO2: 98%
   ABG: ///24/
   Ve: 14.2 L/min
   Physical Examination
   General: Pleasant, cooperative female resting comfortably in bed.
   HEENT: NCAT, PERRL, EOMI, no nystagmus, MMM and I
   Neck: no appreciable JVP
   CV: Tachycardic, regular rhythm, nl S1, S2, no MRG
   Lungs: Supine Exam
 diffuse crackles with few LLL rhonchi
   Abd: Mildly distended, nontender, + BS, liver edge palpable approx 5 cm
   below rib border, spleen not palpable
   Ext: no CCE, atrophic lower extremities
   Peripheral Vascular: dps 2+ b/l
   Skin:  no jaundice, no rashes
   Neurologic: Alert and oriented to person, place, and time; no
   asterixis, + mild intention tremor
   Labs / Radiology
   65 K/uL
   8.4 g/dL
   116 mg/dL
   1.3 mg/dL
   24 mEq/L
   4.1 mEq/L
   31 mg/dL
   115 mEq/L
   145 mEq/L
   24.0 %
   4.1 K/uL
        [image002.jpg]
                             [**2110-10-11**]  03:10 AM
                             [**2110-10-11**]  08:59 AM
                             [**2110-10-11**]  05:33 PM
                             [**2110-10-12**]  12:58 AM
                             [**2110-10-12**]  02:01 AM
                             [**2110-10-12**]  12:00 PM
                             [**2110-10-12**]  07:23 PM
                             [**2110-10-13**]  04:08 AM
                             [**2110-10-13**]  10:25 PM
                             [**2110-10-14**]  04:13 AM
   WBC
   6.0
   5.7
   6.8
   5.1
   4.1
   Hct
   29.8
   29.7
   29.4
   26.6
   27.0
   24.0
   Plt
   69
   60
   69
   68
   68
   65
   Cr
   2.1
   1.6
   1.6
   1.6
   1.2
   1.3
   TCO2
   23
   Glucose
   154
   114
   105
   141
   124
   148
   116
   116
   Other labs: PT / PTT / INR:13.7/34.0/1.2, ALT / AST:[**1-27**], Alk Phos / T
   Bili:100/1.0, Amylase / Lipase:80/46, Lactic Acid:1.2 mmol/L,
   Albumin:3.0 g/dL, LDH:205 IU/L, Ca++:8.4 mg/dL, Mg++:2.1 mg/dL, PO4:3.1
   mg/dL
   Assessment and Plan
   55-F w/ hepatic sarcoidosis / regenerative hyperplasia, s/p TIPS
   [**12/2109**] placed [**3-15**] variceal bleeding / portal hypertensive gastropathy,
   s/p TIPS re-do with angioplasty / portal vein embolectomy, who is
   admitted to the MICU for encephalopathy.
   Pt brought in to ED by husband for asterixis and concern for impending
   encephalopathy, and pt became increasingly combative and then
   unresponsive in ED, c/w past episodes of hepatic encephalopathy.
   Ammonia level 280 on admission. Also in acute renal failure w/ elevated
   BUN and Cr from baseline. Most likely hepatic encephalopathy, although
   uremia from ARF may also be contributing. Received lactulose and
   kayexelate in ED. Guaiac negative in ED.
   #. Encephalopathy: Improving.
   - Asterixis noted to be resolved yesterday, [**10-13**]
   - Successfully extubated pt on [**10-13**]
   - NGT to suction still draining a fair amount
   - monitor for signs of GI bleeding as potential source of hepatic
   encephalopathy
   - will continue lactulose pr as pt cannot take po, titrate to 3 BMs /
   day
   - IVF / albumin as below for ARF
   - holding all sedating meds (gabapentin, amitryptyline, zolpidem)
   - Per liver, giving flagyl empirically for bacterial translocation.  Pt
   is allergic to cipro
   #. Fever: Last febrile [**10-12**] at 4am.  Has been pan-cultured. Concern for
   infection as cause for encephalopathy and also concern for SBP.  Has
   LLL infiltrate on CXR
   - Empiric vanc/zosyn for 7days for PNA in recently hospitalized patient
   on vent.
   - On flagyl empirically for SBP
   - Urine culture grew Group B strep, was on PCN G, but d/c'ed when
   started other abx
   #. Acute renal failure - Pt w/ ARF as evidenced by elevated BUN and Cr
   to 46 and 2.2 on admission, up from baseline BUN [**6-21**] and baseline Cr
   0.8-1.0.
   - IVF for pre-renal azotemia.  UOP has been >30mL/hour.
   - consider albumin for ARF given concern for hepato-renal syndrome.
   Will continue with crystalloid at this time.  However, low threshold to
   add albumin
   - holding diuretics (Lasix, spironolactone)
   - holding diltiazem for now as unclear if pt takes this at home
   #. Hyperkalemia - Pt w/ elevated K to 5.5 on admission, received
   Kayexelate in ED but likely not absorbed as pt had emesis on arrival to
   ICU. ECG without hyperkalemic changes.
   - K+ wnl
   - cont to follow
   #. Hepatic sarcoidosis w/ regenerative hyperplasia - Pt is s/p TIPS x2.
   Currently on Ursodiol at home. LFTs WNL on arrival, Ammonia elevated as
   above.
   - cont home dose of Ursodiol, on hydrocort (at home takes prednisone)
   - cont home vitamins (MVI / thiamine / folate, iron)
   - cont lactulose as above, titrate to 3 BMs/day
   -cont home PPI.  No sucralfate given SBO
   #. Hypothyroidism - cont home dose of levothyroxine
   #. Thrombocytopenia- currently at 60k, down from 119k at admission.
   Concerning for pre-formed HIT abs.  Will check.  If positive, most
   likely due to heparin coated central line and would req replacement
   with heparin free line.
   -Called lab re antibodies and informed that this is a send out lab and
   will not have results for several days.
   #. Hypocalcemia: On sliding scale.
   Nutrition:  TPN.
   Glycemic Control:  Insulin in TPN
   Lines:
   20 Gauge - [**2110-10-10**] 08:30 AM
   Multi Lumen - [**2110-10-10**] 04:40 PM
   Prophylaxis:
   DVT:  pneumo boots
   Stress ulcer:  PPI
   VAP:  daily wake up, mouth rinse, HOB elev
   Communication:  Husband
   [**Name (NI) 66**] status: Full code
   Disposition: [**Month (only) 60**] be able to be called out to floor today.
   ICU Care
   Nutrition:
   TPN without Lipids - [**2110-10-13**] 03:25 PM 54 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2110-10-10**] 04:40 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2110-10-15 06:20:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   NG tube clamped.  60 cc of fluid over 2-4 hr, pulled back several cm by
   surgery
   Transfused 1 U PRBC and developed acute respiratory decompensation (?
   flash pulmonary edema) about 1 hour later (19:20).  Got Lasix 40 IV
   (with 1L output) and rapidly improved.
   C/o bilateral toe pain (like toes fell asleep, happens at home as well)
   Allergies:
   Cipro (Oral) (Ciprofloxacin Hcl)
   Hives;
   Doxycycline
   Hives; hallucin
   Paxil (Oral) (Paroxetine Hcl)
   hair loss;
   Quinine
   Rash;
   Compazine (Injection) (Prochlorperazine Edisylate)
   muscle spasm;
   Levaquin (Oral) (Levofloxacin)
   tendinitis of t
   Lithium
   Hives;
   Last dose of Antibiotics:
   Penicillin G potassium - [**2110-10-13**] 04:43 AM
   Piperacillin - [**2110-10-13**] 05:38 PM
   Vancomycin - [**2110-10-14**] 07:53 AM
   Metronidazole - [**2110-10-15**] 12:28 AM
   Piperacillin/Tazobactam (Zosyn) - [**2110-10-15**] 06:12 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2110-10-14**] 07:53 AM
   Morphine Sulfate - [**2110-10-14**] 12:00 PM
   Furosemide (Lasix) - [**2110-10-14**] 07:20 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2110-10-15**] 06:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.3
C (99.2
   HR: 104 (90 - 136) bpm
   BP: 140/81(93) {92/54(49) - 222/94(94)} mmHg
   RR: 26 (16 - 38) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 61 Inch
    CVP: 6 mmHg
   Total In:
                                                                  3,262 mL
                                                                    756 mL
   PO:
   TF:
   IVF:
                                                                  1,350 mL
                                                                    363 mL
   Blood products:
                                                                    875 mL
   Total out:
                                                                  3,915 mL
                                                                  1,180 mL
   Urine:
                                                                  3,345 mL
                                                                  1,180 mL
   NG:
                                                                    570 mL
   Stool:
                                                            3 BM overnight
   Drains:
   Balance:
                                                                   -653 mL
                                                                   -424 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100% on 2L
   ABG: none this am
   Physical Examination
   Gen: Pleasant, NAD, watching TV
   HEENT: NCAT, no nystagmus, PERRL, no JVD
   CV: RRR no MRG, nl s1, s2
   Lungs: CTA b/l
   Abdomen: mild distention, mildly tender to deep palpation in RUQ, soft,
   + BS
   Ext: no CCE
   Skin:  no jaundice, no rashes
   Neurologic: alert and oriented to person, place and time; no asterixis
   Lines/Tubes: left subclavian without erythema, clean and dry; foley
   draining clear yellow urine, NG to gravity with bilious fluid in tubing
   Labs / Radiology
   76 K/uL
   9.7 g/dL
   129 mg/dL
   1.2 mg/dL
   27 mEq/L
   3.9 mEq/L
   31 mg/dL
   105 mEq/L
   141 mEq/L
   27.1 %
   4.4 K/uL
        [image002.jpg]
                             [**2110-10-12**]  02:01 AM
                             [**2110-10-12**]  12:00 PM
                             [**2110-10-12**]  07:23 PM
                             [**2110-10-13**]  04:08 AM
                             [**2110-10-13**]  10:25 PM
                             [**2110-10-14**]  04:13 AM
                             [**2110-10-14**]  12:22 PM
                             [**2110-10-14**]  03:09 PM
                             [**2110-10-14**]  10:47 PM
                             [**2110-10-15**]  03:40 AM
   WBC
   6.8
   5.1
   4.1
   4.4
   Hct
   29.4
   26.6
   27.0
   24.0
   22.6
   22.9
   28.5
   27.1
   Plt
   68
   68
   65
   76
   Cr
   1.6
   1.6
   1.2
   1.3
   1.2
   TropT
   0.01
   0.02
   Glucose
   105
   141
   124
   148
   116
   116
   129
   Other labs: PT / PTT / INR:13.8/32.4/1.2, CK / CKMB /
   Troponin-T:24//0.02, ALT / AST:[**1-27**], Alk Phos / T Bili:100/1.6,
   Amylase / Lipase:80/46, Lactic Acid:1.2 mmol/L, Albumin:3.0 g/dL,
   LDH:186 IU/L, Ca++:8.6 mg/dL, Mg++:1.9 mg/dL, PO4:3.4 mg/dL
   Guiac (-)
   Assessment and Plan
   55-F w/ hepatic sarcoidosis with regenerative hyperplasia c/b variceal
   bleeding, portal hypertensive gastropathy, TIPs * 2 after
   angioplasty/portal vein embolectomy admitted to the MICU on [**10-9**] for
   encephalopathy and acute on chronic renal insufficiency.
   #. Small Bowel Obstruction
 NG tube in place, currently on suction;
   now stooling
   -check with surgery
 if ok, d/c NG
   -follow BMs, abdominal exams
   #. Anemia
 acute normocytic anemia; some component of this is likely
   dilutional as well as [**3-15**] phlebotomy but Hct drop from 41 at
   presentation to 24 currently is worrisome for active bleeding
   responded appropriately to pRBCs yesterday and stools heme negative
   which is reassuring
   -guiac all stools
   -recheck Hct this afternoon, if continuing to drop transfuse and
   consider CT/liver for EGD
   #. Respiratory decompensation o/n
 now stable and at baseline
   -likely [**3-15**] fluid overload
   -will talk with blood bank to determine if patient needs work up for
   TRALI r/o
   #. Hepatic Sarcoidosis c/b encephalopathy s/p TIPs times 2
 improved
   as compared to admission, some concern for HRS
   - monitor encephalopathy clinically
   - lactulose pr, titrate to 3 BMs / day
 convert to PO once NG tube
   pulled
   - continue to hold all sedating meds (gabapentin, amitryptyline,
   zolpidem)
   - per liver, will need TIPs revision once SBO resolved; empiric flagyl
   to prevent bacterial translocation (cipro allergy)
   - cont home ursodiol, on hydrocort (at home takes prednisone), MVI,
   thiamine, folate, iron, PPI (no sucralfate [**3-15**] SBO)
   #. VAP
 afebrile, no leukocytosis currently
 on zosyn
   -complete 8 day course antibiotics to end [**10-19**]
   #. ARF
 1.2 today, trending towards baseline 1.0, adequate UOP
   -continue fluids, albumin PRN
   -holding lasix, spironolactone
   #. UTI
 group B strep, on zosyn
   -continue zosyn for 7 day course
   #. Hypothyroidism
 continue home levothyroxine
   #. Thrombocytopenia
 Currently stable. Down from 119 at admission.
   HIT antibodies negative. Possibly [**3-15**] liver disease.
   -monitor
   #. Hypocalcemia
 ionized Ca 1.10 today
   - Ca gluconate sliding scale
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2110-10-14**] 04:00 PM 62.5 mL/hour
   Glycemic Control:  Insulin in TPN
   Lines:
   Multi Lumen - [**2110-10-10**] 04:40 PM (plan to place PICC and D/C
   subclavian once PICC ok to use)
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer:  PPI
   VAP:  as above
   Comments:
   Communication:  Husband
   [**Name (NI) 66**] status: Full code
   Disposition: to floor